US06608072B1
e) 2-(4-Fluorophenyl)-1-(2-methylthio-4-pyrimidinyl)-5-(4-tert.butoxycarbonyl-1-piperazinyl)imidazo[4,5-b]pyridine
KN(TMS)2 (812 mg, 3.85 mmol) in toluene (3.85 ml) is added at 0° C. to a solution of 2-(4-Fluorophenyl)-5-(4-tert.butoxycarbonyl-1-piperazinyl)imidazo[4,5-b]pyridine (1.4 g, 3.5 mmol) in DMF (7 ml). After stirring at room temperature for 30 min., 4-iodo-2-methylthiopyrimidine (970 mg, 3.85 mmol) in toluene (3.85 ml) is added and the reaction stirred at room temperature for 1 h. Toluene is evaporated, the reaction mixture heated to 120° C. for 18 h, poured on water and extracted with ethyl acetate (containing 5% EtOH) three times. The combined organic phases are washed with brine, dried over Na2SO4, filtered and evaporated to dryness. Purification over SiO2 (acetone/hexanes 20/80) renders the title compound (950 mg, 52%) as colorless foam.

reactant | 2-(4-Fluorophenyl)-5-(4-tert.butoxycarbonyl-1-piperazinyl)imidazo[4,5-b]pyridine | 3.5 mmol, 1.4 g | FC1=CC=C(C=C1)C=1NC=2C(=NC(=CC2)N2CCN(CC2)C(=O)OC(C)(C)C)N1 | C21H24FN5O2
reactant | 4-iodo-2-methylthiopyrimidine | 3.85 mmol, 970 mg | IC1=NC(=NC=C1)SC | C5H5IN2S
solvent | toluene | 3.85 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | toluene | 3.85 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Fluorophenyl)-1-(2-methylthio-4-pyrimidinyl)-5-(4-tert.butoxycarbonyl-1-piperazinyl)imidazo[4,5-b]pyridine | FC1=CC=C(C=C1)C=1N(C=2C(=NC(=CC2)N2CCN(CC2)C(=O)OC(C)(C)C)N1)C1=NC(=NC=C1)SC | C26H28FN7O2S
